US06573293B2
3-[4-(2-Diethylaminoethylcarbamoyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-6-carboxylic Acid
2-Oxo-2,3-dihydro-1H-indole-6-carboxylic acid (80 mg, 0.45 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide to give 210 mg (92%) of the title compound as a yellow orange solid.

reactant | 2-Oxo-2,3-dihydro-1H-indole-6-carboxylic acid | 0.45 mmol, 80 mg | O=C1NC2=CC(=CC=C2C1)C(=O)O | C9H7NO3
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
product | 3-[4-(2-Diethylaminoethylcarbamoyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indole-6-carboxylic Acid | 210 mg, 92% | C(C)N(CCNC(=O)C=1C(=C(NC1C)C=C1C(NC2=CC(=CC=C12)C(=O)O)=O)C)CC | C23H28N4O4
